US05998617
2-chlorophenazine was reacted with potassium phenolate in tetraglyme to arrive at the 2-phenoxyphenazine. 150 milligrams of 2-phenoxyphenazine was refluxed in 50 milliliters of acetonitrile, 3 milliliters of iodomethane, 1.7 grams of sodium dithionite, 0.21 grams of sodium carbonate and 0.1 gram of tetrabutyl ammonium hydrogen sulfate. After 24 hours, reaction was complete. 50 milliliters of water was added to the refluxing reaction mixture. An oil separated out which was isolated and dissolved in 20 milliliters of hot ethanol. Upon cooling, 47 milligrams of crystalline 2-phenoxy-5,10-dimethyl-5,10-dihydrophenazine was isolated for a 31% yield.

reactant | 2-chlorophenazine | ClC1=CC2=NC3=CC=CC=C3N=C2C=C1 | C12H7ClN2
reactant | potassium phenolate | C1(=CC=CC=C1)[O-].[K+]
reactant | 2-phenoxyphenazine | O(C1=CC=CC=C1)C1=CC2=NC3=CC=CC=C3N=C2C=C1 | C18H12N2O
reactant | 2-phenoxyphenazine | 150 milligrams | O(C1=CC=CC=C1)C1=CC2=NC3=CC=CC=C3N=C2C=C1 | C18H12N2O
reactant | iodomethane | 3 milliliters | IC | CH3I
reactant | sodium dithionite | 1.7 grams | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium carbonate | 0.21 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | tetraglyme | COCCOCCOCCOCCOC | C10H22O5
solvent | acetonitrile | 50 milliliters | C(C)#N | C2H3N
catalyst | tetrabutyl ammonium hydrogen sulfate | 0.1 gram | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethanol | 20 milliliters | C(C)O | C2H6O
solvent | water | 50 milliliters | O | H2O
product | 2-phenoxy-5,10-dimethyl-5,10-dihydrophenazine | 47 milligrams, 31% yield | O(C1=CC=CC=C1)C1=CC=2N(C3=CC=CC=C3N(C2C=C1)C)C | C20H18N2O
